US05438052
2,2-Diphenyl-1,3-benzodioxol-5-carbonitrile (4.79 g) are heated at 160° C. for 5 hours with 1.71 g of ammonium chloride and 2.08 g of sodium azide. The reaction mixture is cooled to room temperature and partitioned at pH 3 between water and ethyl acetate. The organic phase is shaken with water and the pH value is adjusted to 10 with 1N aqueous sodium hydroxide solution. The aqueous phase (pH 10) is separated, shaken with ethyl acetate and the pH value is adjusted to 4. A white precipitate forms. This is filtered off, dried and recrystallized from 240 ml of acetonitrile. There are obtained 3.84 g of 5-(2,2-diphenyl-1,3-benzodioxol-5-yl)-1H-tetrazole as white crystals of melting point 212°-215° C./dec.

reactant | 2,2-Diphenyl-1,3-benzodioxol-5-carbonitrile | 4.79 g | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C#N)C2=CC=CC=C2 | C20H13NO2
reactant | ammonium chloride | 1.71 g | [Cl-].[NH4+]
reactant | sodium azide | 2.08 g | [N-]=[N+]=[N-].[Na+]
product | 5-(2,2-diphenyl-1,3-benzodioxol-5-yl)-1H-tetrazole | 3.84 g | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C2=NN=NN2)C2=CC=CC=C2 | C20H14N4O2
